US07612114B2
[4-(2-Azepan-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine
Synthesized from 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine (700 mg) and 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride (960 mg) according to an analogous synthetic method to Example 152, the title compound (1.2 g) was obtained.

reactant | 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | 700 mg | COC=1C=CC(=C(C1)N)C1CC2=CC=C(C=C2CC1)OC | C18H21NO2
reactant | 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride | 960 mg | Cl.N1(CCCCCC1)CCOC1=CC=C(C(=O)O)C=C1
product | [4-(2-Azepan-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 1.2 g | N1(CCCCCC1)CCOC1=CC=C(CNC2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2)OC)C=C1 | C33H42N2O3
